US06969766B2
N-[2-(Benzothiazole-2-sulfonylamino)-ethyl]-N-{[2-N-(4-methoxybenzyloxycarbonyl)-guanin-9-yl]-acetyl}-glycine ethyl ester
The title compound (2.72 g, 78%) was synthesized by the reaction of N-[2-(benzothiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester (1.72 g, 5 mmol) and [2-N-(4-methoxybenzyloxycarbonyl)-guanin-9-yl]-acetic acid (1.89 g, 5 mmol) as per the procedure of Example 20. 1H NMR (500 MHz; DMSO-d6) δ 8.26 (dd, 1H), 8.15 (dd, 1H), 7.80 (s, 0.6H), 7.76 (s, 0.4H), 7.65 (m, 2H), 7.36 (d, 2H), 6.94 (d, 2H), 5.16 (s, 2H), 5.09 (s, 1.2H), 4.90 (s, 0.8H), 4.42 (s, 0.8H), 4.16 (q, 0.8H), 4.06 (s, 1.2H), 4.03 (q, 1.2H), 3.75 (s, 3H), 3.63(t, 1.2H), 3.43 (t, 1.2H), 3.39 (t, 0.8H), 3.20 (t, 0.8H), 1.21 (t, 1.2H), 1.12 (t, 1.8H).

reactant | N-[2-(benzothiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester | 5 mmol, 1.72 g | C(C)OC(CNCCNS(=O)(=O)C=1SC2=C(N1)C=CC=C2)=O | C13H17N3O4S2
reactant | [2-N-(4-methoxybenzyloxycarbonyl)-guanin-9-yl]-acetic acid | 5 mmol, 1.89 g | COC1=CC=C(COC(=O)NC=2NC(C=3N=CN(C3N2)CC(=O)O)=O)C=C1 | C16H15N5O6
product | N-[2-(Benzothiazole-2-sulfonylamino)-ethyl]-N-{[2-N-(4-methoxybenzyloxycarbonyl)-guanin-9-yl]-acetyl}-glycine ethyl ester | 2.72 g, 78% | C(C)OC(CN(C(CN1C=2N=C(NC(C2N=C1)=O)NC(=O)OCC1=CC=C(C=C1)OC)=O)CCNS(=O)(=O)C=1SC2=C(N1)C=CC=C2)=O | C29H30N8O9S2
